US03991067
trans-5-Ethoxycarbonyl-3-(5-nitrofur-2-ylvinyl)-1,2,4-oxadiazole (332 mg.) was heated under reflux with diethylamine (5 ml.) for 30 min. to give a deep red solution. Evaporation gave a red solid; recrystallisation from methanol (3 ml.) gave trans-5-diethylcarbamoyl-3-(5-nitrofur-2-ylvinyl)1,2,4-oxadiazole (208 mg., 57%), m.p. 118°-119°, λmax. (EtOH) 240 and 349 nm. (ε18,600 and 19,900), νmax. (CHBr3) 1665 (CONEt2), 1510, 1352 (NO2) and 960 cm.-1 (trans CH=CH).

reactant | trans-5-Ethoxycarbonyl-3-(5-nitrofur-2-ylvinyl)-1,2,4-oxadiazole | 332 mg | C(C)OC(=O)C1=NC(=NO1)\C=C\C=1OC(=CC1)[N+](=O)[O-] | C11H9N3O6
reactant | diethylamine | 5 ml | C(C)NCC | C4H11N
product | trans-5-diethylcarbamoyl-3-(5-nitrofur-2-ylvinyl)1,2,4-oxadiazole | 208 mg, 57% | C(C)N(C(=O)C1=NC(=NO1)\C=C\C=1OC(=CC1)[N+](=O)[O-])CC | C13H14N4O5
